US07067519B2
1-(9-Oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-3-yl)-1-(1-phenyl-ethyl)-3-(2-n-propyl-phenyl)-urea (mixture of diatereoisomers)
To a solution of 3-(1-phenyl-ethylamino)-2,3-dihydro-1H-pyrrolo[2,1-b]quinazolin-9-one (50 mg, 0.163 mmol) in dry CH2Cl2 (1 mL), was added 2-n-propylphenyl isocyanate (26.3 mg, 0.163 mmol). The resulting reaction mixture was stirred at rt under nitrogen for 20 h. The reaction mixture was then concentrated under reduced pressure and the residue was purified by FC (AcOEt/heptane: 7/3) to give the title compound as a white foam (45%). LC-MS (MeCN/H2O: 1/1): Rt=3.00 min. m/z=467 (M+1).

reactant | 3-(1-phenyl-ethylamino)-2,3-dihydro-1H-pyrrolo[2,1-b]quinazolin-9-one | 0.163 mmol, 50 mg | C1(=CC=CC=C1)C(C)NC1CCN2C1=NC=1C=CC=CC1C2=O | C19H19N3O
reactant | 2-n-propylphenyl isocyanate | 0.163 mmol, 26.3 mg | C(CC)C1=C(C=CC=C1)N=C=O | C10H11NO
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 1-(9-Oxo-1,2,3,9-tetrahydro-pyrrolo[2,1-b]quinazolin-3-yl)-1-(1-phenyl-ethyl)-3-(2-n-propyl-phenyl)-urea | 45% | O=C1N2C(=NC=3C=CC=CC13)C(CC2)N(C(=O)NC2=C(C=CC=C2)CCC)C(C)C2=CC=CC=C2 | C29H30N4O2
